US03940394
A stirred mixture of 32.1 g of (4-hydroxy-2-pyrimidinylthio)acetic acid, ethyl ester and 22.4 g of N,N-diethylaniline in 400 ml. of phosphorus oxychloride were heated under reflux for 5 hr. The phosphorus oxychloride was removed in a rotary evaporator in vacuo. The residue was poured onto ice and the mixture was extracted with 1 liter of ether. The ether solution was dried over MgSO4 and then filtered. The filtrate was taken to dryness in a rotary evaporator yielding 22.9 g of (4-chloro-2-pyrimidinylthio)acetic acid, ethyl ester (an oil). This material was used directly in the next step without purification.

reactant | (4-hydroxy-2-pyrimidinylthio)acetic acid, ethyl ester | 32.1 g | OC1=NC(=NC=C1)SCC(=O)OCC | C8H10N2O3S
reactant | N,N-diethylaniline | 22.4 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (4-chloro-2-pyrimidinylthio)acetic acid, ethyl ester | 22.9 g | ClC1=NC(=NC=C1)SCC(=O)OCC | C8H9ClN2O2S
